US03971791
Upon boiling a solution of 7.6 g of 3-nitrobenzaldehyde, 5.0 g of acetylacetone and 6.5 g of amidinoacetic acid ethyl ester in 100 ml of ethanol for 2 hours, 2-amino-5-acetyl-6-methyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3-carboxylic acid ethyl ester of melting point 217°C (ethanol) is obtained. Yield: 48% of theory.

reactant | 3-nitrobenzaldehyde | 7.6 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | acetylacetone | 5.0 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | amidinoacetic acid ethyl ester | 6.5 g | C(C)OC(CC(N)=N)=O | C5H10N2O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-amino-5-acetyl-6-methyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3-carboxylic acid ethyl ester | Yield: 48% | C(C)OC(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(C)=O)C)N | C17H19N3O5
